US05905076
A mixture of (3S,4S)-3-benzyloxycarbonylamino-4-acetoxy-azetidin-2-one (11.76 g, 42.3 mmole) which prepared by the known method (Eur. J. Med. Chem. 1992, 27, 131-140), 2-bromoethanol (3 ml, 42.3 mmole), and zinc acetate dihydrate (9.28 g, 42.3 mmole) in a mixture of benzene (100 ml) and toluene (100 ml) was refluxed for 5 hrs using Dean-Stark water separator. After cooling, the reaction mixture was partitioned between ethyl acetate (800 ml), acetone (100 ml) and water (500 ml). The organic layer was washed with water, brine and dried over sodium sulfate. After removal of the solvent, the residue was purified by silica gel column chromatography using ethyl acetate-hexane (6:4) as eluent and 2.04 g of (3S,4R)-3-benzyloxycarbonylamino-4-bromoethoxy-azetidin-2-one was obtained as white solid (yield: 14%).

reactant | (3S,4S)-3-benzyloxycarbonylamino-4-acetoxy-azetidin-2-one | 42.3 mmole, 11.76 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N[C@H]1OC(C)=O)=O | C13H14N2O5
reactant | 2-bromoethanol | 42.3 mmole, 3 ml | BrCCO | C2H5BrO
reactant | water | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | zinc acetate dihydrate | 42.3 mmole, 9.28 g | O.O.C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
product | (3S,4R)-3-benzyloxycarbonylamino-4-bromoethoxy-azetidin-2-one | 2.04 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N[C@@H]1OCCBr)=O | C13H15BrN2O4
